US09102591B2
(2-Methyl-pyrimidin-5-yl)-acetonitrile was prepared as described above for the synthesis of (6-trifluoromethyl-pyridin-3-yl)-acetonitrile starting from (2-methyl-pyrimidin-5-yl)-methanol

reactant | (6-trifluoromethyl-pyridin-3-yl)-acetonitrile | FC(C1=CC=C(C=N1)CC#N)(F)F | C8H5F3N2
reactant | (2-methyl-pyrimidin-5-yl)-methanol | CC1=NC=C(C=N1)CO | C6H8N2O
product | (2-Methyl-pyrimidin-5-yl)-acetonitrile | CC1=NC=C(C=N1)CC#N | C7H7N3
